US07772285B2
50.0 g of 6-(2,4-dihydroxybenzoyl)-2-chromanone, 17.6 mL of cyclopentanol, and 55.4 g of triphenylphosphine were dissolved in 500 mL of tetrahydrofuran, to which 41.6 mL of diisopropyl azodicarboxylate was added dropwise at temperatures of 15 to 32° C., and this solution was stirred for 30 minutes at room temperature. The reaction mixture was poured into a mixture of ethyl acetate and water for the separation of the organic phase therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate and the solvent was distilled out thereof under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=3:1] to yield 54.7 g of 6-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-chromanone as light yellow solid.

reactant | 6-(2,4-dihydroxybenzoyl)-2-chromanone | 50.0 g | OC1=C(C(=O)C=2C=C3CCC(OC3=CC2)=O)C=CC(=C1)O | C16H12O5
reactant | cyclopentanol | 17.6 mL | C1(CCCC1)O | C5H10O
reactant | triphenylphosphine | 55.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | diisopropyl azodicarboxylate | 41.6 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | water | O | H2O
product | 6-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-chromanone | 54.7 g | C1(CCCC1)OC1=CC(=C(C(=O)C=2C=C3CCC(OC3=CC2)=O)C=C1)O | C21H20O5
